Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
language difficulties
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a history of 
anxiety and "palpitations", who has not seen a physician ___ 
___ who presents today after he called his PCP with concerns 
of two days of confusion. 

Yesterday, the patient awoke at 6 AM which is his regular time 
to get ready for work.  He showered and got dressed and was 
downstairs in the den by 6:25 AM.  He remembers trying to talk 
to his wife about something he saw on the news, but felt that he 
had difficulty getting out the words correctly.  He states that 
his wife did not really notice. The patient then walked to the 
train station.  His regular scheduled train was running a few 
minutes late so he went inside the train station to ___ 
___ to purchase a coffee and muffin.  When it was his turn in 
line, the patient states that he had significant difficulty 
getting out the words correctly.  He states that he knew that he 
wanted to order a large coffee and a blueberry muffin, but was 
struggling to get words out, and when he did say words they were 
not making sense.  After a few minutes the patient finally did 
manage to order the coffee /muffin correctly however it was 
difficult. 

The patient then proceeded to get on his train without any 
difficulty.  The patient then got off at ___ and 
walked ___ mile to his office.  The patient did not have any 
trouble with recognizing directions at all.  On his computer at 
work, when he tried to log-in using his password which changes 
every ___ weeks, the patient drew a blank.  Eventually he 
remembered sort of what the password was but had difficulty 
remembering the exact combination of numbers and letters.  This 
struck him as odd as the patient has good memory and typically 
does not have difficulty with his password.  He eventually after 
a few minutes remembered that he used a series of numbers and 
letters from a chart on his desk.  He pulled out the chart and 
was able to deduce what his password was. 

The patient works in the department of ___/location ___. 
He uses a database which sorts every town in ___ by 
name.  The patient remembers having difficulty differentiating 
between the town ___ and ___.  He was able to 
get through the day but was only able to accomplish about one 
third of the work that he normally does not a day.  He had one 
conversation with a coworker who he was working with on a 
project, who did not point out any abnormalities in his speech, 
but he feels that maybe she thought something was odd.  He also 
noticed that throughout the day he had a  2 out of 10 in 
severity persistent ache between his eyes at the bridge of his 
nose.  It was not particularly bothersome but he noticed it was 
there.  At about 6 ___, the patient left the office and was able 
to go to the train station and catch the train home without any 
issues.  The patient returned home and ate popcorn with his wife 
while they watched TV for 2 hours and he was able to hold a 
normal conversation.  The patient then went to sleep at 10 ___ 
without any issues.  

This morning, the patient awoke at 6 AM again and was able to 
get dressed and catchi his regular train. When he got to work, 
again the patient had some difficulty remembering what his 
password was and had some difficulty piecing together the 
numbers and letters even though he had just done this the day 
before.  

Around ___ the patient started to become worried that his 
cognitive difficulties were not just due to poor sleep or 
stress.  At this time he called his primary care physician who 
he has not seen in ___ years and talked to a staff member who 
organized for a carrier vehicle to bring him to the nearest 
hospital.  The patient told his boss he was confused so he was 
escorted downstairs to the lobby.  The patient denies any other 
symptoms such as drooping of his face, weakness on one side 
compared to the other, no tingling, no numbness, no neck pain, 
no visual symptoms, no difficulty with gait, no incoordination.  


In regards to the patient's prior medical history, he has been 
diagnosed with significant anxiety and kidney stones in the 
past. He has not seen his primary care physician in over ___ 
years.  He was told a couple years ago that he had an irregular 
heartbeat, however the patient did not ___ for this.  He 
does not take any medications, no aspirin or vitamins.  Of note, 
intermittently while the patient has been in the ER he has been 
noted to go into atrial flutter/tachycardia on the monitor.  EKG 
captured atrial flutter.
 
On neuro ROS, the pt denies  loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties 
comprehending speech.  Denies focal weakness, numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 
Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1.  Anxiety
2.  History of palpitations
 
Social History:
___
Family History:
Father is alive without medical issues. Mother passed away ___ 
years ago with jaundice, unclear etiology
 
Physical Exam:
===============
ADMISSION EXAM:
===============
General: Awake, cooperative, slightly anxious 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x self, date, location. Able to 
relate history with minimal difficulty. Attentive, able to name 
___ backward without difficulty. Language is fluent with intact 
repetition and comprehension. Slow to initiate speech at times. 
Very subtle/minor paraphasic errors x2 when reading the stroke 
card "You know WHO " instead of You know how. Pt was able to 
name both high and low frequency objects off stroke card.  
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength 
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. R pronation without drift. 
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     5    5    5      5     5    5       5        5     5    
 5   
R  5     5    5   5       5     5   5        5        5     5    
 5   

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1   0
R  1  1    1    1   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap 
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. 

===============
DISCHARGE EXAM:
===============
General: sitting in bed, NAD
CV: warm and well-perfused
Resp: breathing comfortably

Mental status: Awake and alert. Provides detailed history. 
Speech is fluent with paraphasic errors. Repetition intact. 
Naming intact to high and low frequency objects. Writing intact. 
Follows complex motor commands.
Cranial nerves: PERRL. VFF to confrontation. Face symmetric. 
Tongue midline. Palate elevates symmetrically. Hearing intact to 
finger rub bilaterally.
No pronator drift. Deltoid ___, triceps ___, biceps ___, IP ___, 
quad ___, ham ___, TA ___, ___ ___, ___ ___.
Reflexes: UE 1 bilaterally. Patellar 1 bilaterally. Toe mute on 
right, toe down on left.
Sensory: Sensation intact to light touch.
Coordination: FNF without dysmetria bilaterally.
 
Pertinent Results:
___ 05:00AM BLOOD WBC-7.9 RBC-5.74 Hgb-15.7 Hct-48.2 MCV-84 
MCH-27.4 MCHC-32.6 RDW-12.6 RDWSD-38.2 Plt ___
___ 05:00AM BLOOD Glucose-82 UreaN-16 Creat-1.3* Na-144 
K-3.8 Cl-103 HCO3-26 AnGap-15
___ 05:00AM BLOOD Albumin-4.1 Calcium-8.9 Phos-4.0 Mg-2.4
___ 05:00AM BLOOD %HbA1c-5.4 eAG-108
___ 12:14PM BLOOD Triglyc-259* HDL-37* CHOL/HD-6.2 
LDLcalc-141*
___ 12:14PM BLOOD TSH-1.4

========
CT HEAD:
========
1.   2.1 x 1.5 cm area of hypoattenuation in the left frontal 
lobe compatible with a subacute infarct. Consider MRI/MRA for 
further assessment. 
2.  No intracranial hemorrhage or mass. 

====
CTA:
====
1. Hypodensity within the left frontal lobe corresponds with an 
area of late acute versus early subacute infarct as seen on 
subsequent MRI. 
2. Additional left occipital lobe infarct seen on subsequent MRI 
is not well appreciated by CT. 
3. No acute intracranial hemorrhage. 
4. Grossly patent intracranial cervical vasculature without 
high-grade 
stenosis, occlusion, or aneurysm greater than 3 mm. 

====
MRI:
====
1. Late acute versus early subacute infarcts involving the left 
frontal and left occipital lobes. 
2. No evidence of hemorrhage. 
3. Mild global parenchymal volume loss. 

=====
ECHO:
=====
The left atrium is elongated. There is no evidence of an atrial 
septal defect or patent foramen ovale by 2D/color 
Doppler/agitated saline with maneuvers though image acquisition 
was suboptimal (incomplete image storage through several cardiac 
cycles). The estimated right atrial pressure is ___ mmHg. There 
is normal left ventricular wall thickness with a normal cavity 
size. There is mild global left ventricular hypokinesis. 
Quantitative biplane left ventricular ejection fraction is 49 %. 
There is no resting left ventricular outflow tract gradient. 
Tissue Doppler suggests a normal left ventricular filling 
pressure (PCWP less than 12mmHg). Mildly dilated right 
ventricular cavity with mild global free wall
hypokinesis. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) are mildly 
thickened. There is no
aortic valve stenosis. There is no aortic regurgitation. The 
mitral leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets are mildly
thickened. There is physiologic tricuspid regurgitation. The 
pulmonary artery systolic pressure could not be estimated. There 
is no pericardial effusion.
IMPRESSION: Mild global biventricular hypokinesis. No 
significant valvular disease. Bubble study suboptimal but does 
not suggest ASD or PFO.

 
Brief Hospital Course:
================
PATIENT SUMMARY:
================
___ yo male with history of anxiety and intermittent 
palpitations, who presented with two days of mild language 
difficulties. Found to be in atrial flutter, MRI with two small 
strokes in the left frontal lobe and left occipital lobe likely 
cardio embolic in origin. 

=====================
ACUTE MEDICAL ISSUES:
=====================
#Acute ischemic stroke:
Patient was initially put on aspirin 81 mg, pending MRI. Strokes 
appeared embolic, likely in the setting of atrial flutter. After 
discussion with patient's primary care doctor, he was started on 
Apixaban 5 mg BID on ___. No deficits were noted on neurologic 
exam, although patient reported on-going mild difficulties with 
his language. Occupational therapy and speech therapy were 
consulted and recommended . 

Stroke work-up also included hgb A1c (5.5%) and lipid panel 
(total cholesterol 230, triglycerides 259, and LDL 141). Lipid 
panel was drawn on presentation, but patient reported that he 
had not eaten for 6 hours prior, so likely true fasting values. 
TSH was normal (1.4). Started on intensive statin therapy 
(atorvastatin 40 mg daily).

#New atrial flutter:
Patient's heart rate was a maximum of 114 in the emergency 
department. He was started on metoprolol 25 mg BID, and his 
heart rates were well controlled (70s-80s) overnight and prior 
to discharge. His echocardiogram showed no evidence of ASA or 
PFO. He was discharged on metoprolol XL 50mg PO daily 

=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done 
2. DVT Prophylaxis administered? (X) Yes - SQ heparin
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - ASA 81
4. LDL documented? (X) Yes (LDL = 141) 
5. Intensive statin therapy administered? (X) Yes - Atorvastatin 
40 mg 
6. Smoking cessation counseling given? (X) No [reason (X) 
non-smoker] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes 
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes 
9. Discharged on statin therapy? (X) Yes - Atorvstatin 40 mg
10. Discharged on antithrombotic therapy? (X) Anticoagulation
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (X) Yes - Apixaban 5 BID 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM  
3.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.Outpatient Speech/Swallowing Therapy
ICD-10 I___.40 - cardio-embolic stroke
Provider for ___: Dr. ___, ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
Hyperlipidemia
Atrial flutter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of mild language 
difficulties resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
You were found to have atrial flutter, which is when your heart 
rhythm and movement is abnormal. This puts you at risk for clots 
to form in the heart and then go to the brain and cause strokes. 
Because of this risk, you were started on Apixaban, which is a 
blood thinner, to help prevent clot formation. This medication 
does increase your risk of bleeding. In addition, you were 
started on metoprolol, a medication to make sure that your heart 
rate doesn't go too high.

You were also found to have high cholesterol, and you were 
started on a statin to lower your cholesterol. 

We are changing your medications as follows:  
-You were started on apixaban, a blood thinner medication to 
prevent future strokes
-You were started on Atorvastatin 40 mg daily to treat your 
hyperlipidemia
-You were started on metoprolol to control your heart rate

Please follow up with your primary care physician as listed 
below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___